US06399629B1
(B) 1-(trans-4-Glycylamino-L-Prolyl)-4-[4-Fluorophenyl)piperazine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (2.5 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(4-fluorophenyl)piperazine (A, 83 mg) in 1,4-dioxane (2.5 mL) at room temperature. After stirring at room temperature for 30 min, the reaction mixture was evaporated in vacuo. The residue was washed with ether to give the titled compound (43 mg) as a white powder: 1H NMR (400 MHz, D2O) δ 2.51 (m, 1H), 2.63 (m, 1H), 3.48 (dd, J=4.4, 12 Hz, 1H), 3.57 (m, 4H), 3.82 (m, 1H), 3.85 (s, 2H), 3.93 (br s, 3H), 4.02 (m, 1H), 4.60 (br t, 1H), 5.08 (t, J=8.30 Hz, 1H), 7.28 (t, J=8.5 Hz, 2H), and 7.46 (m, 2H); mass spectrum (EI+) ine 349 (M).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(4-fluorophenyl)piperazine | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C27H40FN5O6
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Glycylamino-L-Prolyl)-4-[4-Fluorophenyl)piperazine Dihydrochloride | 43 mg | Cl.Cl.NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)F | InChI=1S/C17H24FN5O2.2ClH/c18-12-1-3-14(4-2-12)22-5-7-23(8-6-22)17(25)15-9-13(11-20-15)21-16(24)10-19;;/h1-4,13,15,20H,5-11,19H2,(H,21,24);2*1H/t13-,15+;;/m1../s1
